US04954518
120 ml of ethanol and 120 ml of water were added to 23.1 g of 3-nitro-4-phenoxyphenol, and the mixture was made into a solution by heating at 60° C. 2.3 ml of 4N hydrochloric acid was added thereto. While maintaining the reaction temperature at 65°-70° C., 16.8 g of an iron powder was added thereto in portions in 20 minutes. Stirring was conducted for 30 minutes at the same temperature. The reaction mixture was hot-filtered. 50 ml of water was added to the filtrate and the mixture was allowed to stand. The resulting crystal was collected by filtration to obtain 16.5 g (yield: 82.1%) of 3-amino-4-phenoxyphenol having a melting point of 156°-157° C.

reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | 3-nitro-4-phenoxyphenol | 23.1 g | [N+](=O)([O-])C=1C=C(C=CC1OC1=CC=CC=C1)O | C12H9NO4
reactant | hydrochloric acid | 4N, 2.3 ml | Cl | ClH
catalyst | iron | 16.8 g | [Fe] | Fe
solvent | water | 120 ml | O | H2O
product | 3-amino-4-phenoxyphenol | 16.5 g, yield: 82.1% | NC=1C=C(C=CC1OC1=CC=CC=C1)O | C12H11NO2
